US06806278B2
1-(4-{4-[(7-Methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidine-1-carbonyl}-piperidin-1-yl)-ethanone
To a solution of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine (200 μL of 0.25 M in dimethyl formamide, 50 μmole) was added 1-acetylpiperidine-4-carboxylic acid (220 μL of 0.25M in DMF), 300 μL of EDCI (0.25M in DMF) and 220 uL of HOBT (0.25M in DMF) and 30 μL DIEA. The solution was allowed to stir for 48 h at 25° C. under N2. Concentrated in vacuo. The final product was isolated by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile: water (0.1% TFA)) to afford 1-(4-{4-[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidine-1-carbonyl}-piperidin-1-yl)-ethanone 2 (5.2 mg), [M+H]+=456.

reactant | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-yl-propyl-amine | 50 μmole, 0.25 M, 200 μL | COC1=CC=C2CCC(CC2=C1)N(CCC)C1CCNCC1 | C19H30N2O
reactant | 1-acetylpiperidine-4-carboxylic acid | 0.25M, 220 μL | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | EDCI | 0.25M, 300 μL | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.25M, 220 uL | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DIEA | 30 μL | CCN(C(C)C)C(C)C | C8H19N
product | 1-(4-{4-[(7-Methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-piperidine-1-carbonyl}-piperidin-1-yl)-ethanone | COC1=CC=C2CCC(CC2=C1)N(C1CCN(CC1)C(=O)C1CCN(CC1)C(C)=O)CCC | C27H41N3O3
